US07875636B2
To a suspension of (4-pyrrolidin-1-ylphenyl)acetic acid (U.S. Pat. No. 3,641,040) (0.50 g, 2.4 mmol), (1R)-1-(5-methoxypyridin-2-yl)ethylamine hydrochloride (0.57 g, 3.0 mmol), and HATU (1.2 g, 3.1 mmol) in DMF (3 mL) was added N,N-diisopropylethylamine (1.7 mL, 9.7 mmol) and the mixture was stirred at room temperature for 16 h. The solution was concentrated and the crude residue was partitioned between water and EtOAc. The organic layer was washed with brine and water, dried over MgSO4, and purified by normal phase chromatography (10-100% EtOAc/hexanes) to give N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]-2-(4-pyrrolidin-1-ylphenyl)acetamide as a tan solid. 1H NMR (400 MHz, CDCl3) δ 8.16 (m, 1H), 7.11 (m, 4H), 6.54 (m, 3H), 5.09 (m, 1H), 3.83 (s, 3H), 3.48 (d, J=3.2 Hz, 2H), 3.28 (t, J=6.4 Hz, 4H), 2.01 (m, 4H), 1.36 (d, J=6.4 Hz, 3H); MS (Electrospray): m/z 340.4 (M+H)

reactant | (4-pyrrolidin-1-ylphenyl)acetic acid | N1(CCCC1)C1=CC=C(C=C1)CC(=O)O | C12H15NO2
reactant | (1R)-1-(5-methoxypyridin-2-yl)ethylamine hydrochloride | 3.0 mmol, 0.57 g | Cl.COC=1C=CC(=NC1)[C@@H](C)N
reactant | HATU | 3.1 mmol, 1.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 9.7 mmol, 1.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]-2-(4-pyrrolidin-1-ylphenyl)acetamide | COC=1C=CC(=NC1)[C@@H](C)NC(CC1=CC=C(C=C1)N1CCCC1)=O | C20H25N3O2
